US08440689B2
A. Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate
A mixture of methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate (162.8 mg, 0.445 mmol), tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (111.6 mg, 0.521 mmol) and Et3N (0.1 mL, 0.717 mmol) in THF (6 mL) and DMF (6.00 mL) was stirred at 60° C. for 12 h. After the mixture was cooled, saturated aq NaHCO3 (30 mL) was added and the mixture was extracted with EtOAc (2×30 mL). The organic layers were washed with saturated aq NaHCO3 (15 mL), water (15 mL) and brine (15 mL), were dried over anhydrous Na2SO4, and filtered through SiO2. The filtrate was concentrated under reduced pressure and the residue was washed with IPE to give the title compound as a yellow solid (182.2 mg, 75%). 1H-NMR (CDCl3) δ ppm 1.42-1.67 (m, 15H), 1.84-1.91 (m, 2H), 3.07 (s, 3H), 3.95-3.97 (m, 4H), 4.16-4.17 (m, 1H), 4.77 (s, 1H), 6.24 (s, 1H), 7.48-7.51 (m, 1H), 7.58-7.61 (m, 1H), 7.77-7.78 (m, 1H), 8.41 (s, 1H), 10.99 (s, 1H), 1H not detected.

reactant | methyl 6-chloro-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 0.445 mmol, 162.8 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C15H12ClN3O4S
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 0.521 mmol, 111.6 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | Et3N | 0.717 mmol, 0.1 mL | CCN(CC)CC | C6H15N
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DMF | 6.00 mL | CN(C)C=O | C3H7NO
product | Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(3-(methylsulfonyl)phenylamino)nicotinate | 182.2 mg, 75% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=CC=C1)S(=O)(=O)C | C26H33N5O6S
